US05156763
4-Bromo-2,6-difluoroaniline (6)
A solution of bromine (127.0 g, 0.79 mol) in glacial acetic acid (200 ml) was added slowly, dropwise to a stirred solution of 2,6-difluoroaniline (101.5 g, 0.79 mol) in glacial acetic acid (550 ml) keeping the temperature below 25° C. The mixture was stirred at room temperature for 2 h, and then sodium thiosulphate (50 g), sodium acetate (125 g) and water (700 ml) were added and the mixture was cooled in a refrigerator overnight. The product was filtered off, dissolved in ether, and the ether phase was washed with water, 10% sodium hydroxide, water and dried (MgSO4). The solvent was removed in vacuo to yield a pale yellow solid (134 g) which was steam distilled to give a colourless solid.

reactant | bromine | 0.79 mol, 127.0 g | BrBr | Br2
reactant | 2,6-difluoroaniline | 0.79 mol, 101.5 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | sodium thiosulphate | 50 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium acetate | 125 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 550 ml | C(C)(=O)O | C2H4O2
solvent | water | 700 ml | O | H2O
product | 4-Bromo-2,6-difluoroaniline | 134 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
